US05086053
A) 2-[(4-diethylamino butyn-2-yl) amino]-5-phenyl-1,3,4-thiadiazole hydrate
4 g of 2-bromo 5-phenyl-1,3,4-thiadiazole prepared as indicated in Tetrahedron, 1968, 24, 3214 was mixed with 6.98 g of 4-diethylamino butyn-2-yl amine prepared as indicated in Eur. J. Med. Chem. Chim. Ther., 1982, 17, 85-88. The mixture was reflux-heated in 100 ml of ethanol for 48 hours. The ethanol was concentrated in vacuo, and the residue was dissolved in a 4 N soda solution. It was extracted with ethyl acetate, then the organic phase was washed with water, dried on sodium sulphate and the residual oil was chromatographed on silica gel, using ethylacetate as the eluent.

reactant | 2-bromo 5-phenyl-1,3,4-thiadiazole | 4 g | BrC=1SC(=NN1)C1=CC=CC=C1 | C8H5BrN2S
reactant | 4-diethylamino butyn-2-yl amine | 6.98 g | C(C)N(C#CC(C)N)CC | C8H16N2
reactant | ethanol | 100 ml | C(C)O | C2H6O
product | 2-[(4-diethylamino butyn-2-yl) amino]-5-phenyl-1,3,4-thiadiazole hydrate | O.C(C)N(C#CC(C)NC=1SC(=NN1)C1=CC=CC=C1)CC | InChI=1S/C16H20N4S.H2O/c1-4-20(5-2)12-11-13(3)17-16-19-18-15(21-16)14-9-7-6-8-10-14;/h6-10,13H,4-5H2,1-3H3,(H,17,19);1H2
